US08871790B2
Compound 181.1. 4-Bromo-2-ethylbenzoic acid
To a 1 L three neck round-bottom flask, which was purged and maintained with a nitrogen atmosphere, was added 4-bromo-2-fluorobenzoic acid (50.0 g, 228 mmol, 1.00 equiv) in tetrahydrofuran (500 mL). A solution of ethylmagnesium bromide (250 mL, 3 M in THF) was added dropwise at 0° C. The resulting solution was stiffed for 3-4 h at 0° C. The mixture was then carefully quenched by dropwise addition of water at 0° C. After complete quench of the reaction, additional water was added and the pH was adjusted to 2-3 with hydrogen chloride (aqueous, 2 M). The mixture was extracted with 2×200 mL of ethyl acetate and the organic layers were combined. Sodium hydroxide (2N, aq.) was employed to adjust the pH to 7-8. The resulting mixture was washed with 2×200 mL of ethyl acetate. The pH value of the aqueous solution was adjusted to 2-3 with 2N hydrogen chloride, then extracted with 2×200 mL of ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo. This resulted in 30.0 g (57%) of 4-bromo-2-ethylbenzoic acid as a yellow solid.

reactant | 4-bromo-2-fluorobenzoic acid | 228 mmol, 50.0 g, 1.00 equiv | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | ethylmagnesium bromide | 3 M, 250 mL | C(C)[Mg]Br
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 4-Bromo-2-ethylbenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)CC | C9H9BrO2
